US08022062B2
7-Ethyl-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine:
Under nitrogen dissolve 7-acetyl-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine (1.0 g, 3.32 mmol) in anhydrous THF (100 mL). Cool the solution to 0° C., add boron trifluoride diethyl etherate (3.4 mL, 26.6 mmol) and sodium cyanoborohydride (836 mg, 13.3 mmol). Remove the ice bath and stir for 5 h at ambient temperature. Dilute with EtOAc and wash with 0.1N aqueous HCl. Separate the organic layer, dry over Na2SO4, filter and concentrate in vacuo. MS (ES−) m/z: 302 (M−H)−. Mix the residue with trifluoroacetic acid (40 mL) and anhydrous DCM (50 mL) under nitrogen. Cool to 0° C. in an ice bath and add triethyl silane (3.5 mL, 21.9 mmol). After 15 min, remove the ice bath and stir at ambient temperature for 16 h. Concentrate in vacuo and purify by chromatography on silica gel eluting with EtOAc/hexane (1:9) to obtain the desired intermediate (698 mg, 73%). MS (ES−) m/z: 286 (M−H)−.

reactant | 7-acetyl-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 3.32 mmol, 1.0 g | C(C)(=O)C1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)O | C14H14F3NO3
reactant | boron trifluoride diethyl etherate | 26.6 mmol, 3.4 mL | B(F)(F)F.CCOCC
reactant | sodium cyanoborohydride | 13.3 mmol, 836 mg | C(#N)[BH3-].[Na+]
reactant | triethyl silane | 21.9 mmol, 3.5 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 7-Ethyl-6-hydroxy-3-(2,2,2-trifluoroacetyl)-2,3,4,5-tetrahydro-1H-benzo[d]azepine | 698 mg, 73% | C(C)C1=C(C2=C(CCN(CC2)C(C(F)(F)F)=O)C=C1)O | C14H16F3NO2
